US07091199B1
Preparation of (2-fluoro-benzyl)-[3-(3-thieno[2,3-d]isoxazol-3-yl-phenoxy)-propyl]-amine (Scheme I, Compound 1)
Combine a mixture (1 mmol total) of 3-[3-(3-bromo-propoxy)-phenyl]-thieno[2,3-d]isoxazole, 3-[3-(3-chloro-propoxy)-phenyl]-thieno[2,3-d]isoxazole with 2-fluorobenzylamine (0.63 g, 5.0 mmol), potassium carbonate (0.41 g, 3.0 mmol) and a mixture of acetonitrile:water (80:20) and heat (80° C.) for 30 hours. Cool the reaction mixture and concentrate to give a residue. Purify the residue by column (silica) chromatography (ethyl acetate). Combine the appropriate fractions and concentrate to give the title compound (0.36 g, 94% Yield) as an oil. Purity by LC/MS (APCI)=100% area, [M+H]+=383 g/mol.

reactant | 3-[3-(3-bromo-propoxy)-phenyl]-thieno[2,3-d]isoxazole | 1 mmol | BrCCCOC=1C=C(C=CC1)C1=NOC2=C1SC=C2 | C14H12BrNO2S
reactant | 3-[3-(3-chloro-propoxy)-phenyl]-thieno[2,3-d]isoxazole | ClCCCOC=1C=C(C=CC1)C1=NOC2=C1SC=C2 | C14H12ClNO2S
reactant | 2-fluorobenzylamine | 5.0 mmol, 0.63 g | FC1=C(CN)C=CC=C1 | C7H8FN
reactant | potassium carbonate | 3.0 mmol, 0.41 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile water | C(C)#N.O
product | (2-fluoro-benzyl)-[3-(3-thieno[2,3-d]isoxazol-3-yl-phenoxy)-propyl]-amine | 0.36 g, 94% Yield | FC1=C(CNCCCOC2=CC(=CC=C2)C2=NOC3=C2SC=C3)C=CC=C1 | C21H19FN2O2S
